US06004959
3,5-dihydroxy-fluoren-9-one
In a manner analogous to Example 1D, prepare a solution of 3,5-dimethoxy-fluoren-9-one (4.0 g, 16.6 mmole) in 25 mL glacial acetic acid and react with 75 mL hydrogen bromide to obtain the title compound. (m.p. 301-3030° C. (dec.) (54%)

reactant | 3,5-dimethoxy-fluoren-9-one | 16.6 mmole, 4.0 g | COC=1C=CC=2C(C3=CC=CC(=C3C2C1)OC)=O | C15H12O3
reactant | hydrogen bromide | 75 mL | Br | BrH
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 3,5-dihydroxy-fluoren-9-one | OC=1C=CC=2C(C3=CC=CC(=C3C2C1)O)=O | C13H8O3
